*---------------------------------------------------------------
*  *** Spice model ***
*
*  Copyright (C) Panasonic Industry Corporation
*
*  Power Inductors for Automotive application
*
*  Parts No. ETQP3M150KVN
*---------------------------------------------------------------
* Before using this model, Confirmed "Conditions of Use".
*
* Conditions of Use
* 1. Usage and utilization of this model should only be made on an "AS IS" basis
*    as reference for the special characteristics of our products.
*
* 2. Please refer to our catalogs and specification sheets for any data and
*    specifications which are not in this model.
*
* 3. We do not authorize the use or utilization of this model for any purpose 
*    other than for the customer's reference in their design of various circuits.
*    We do not grant a license for the intellectual property rights owned by
*    us or any third party,nor do we guarantee that there is no infringement
*    of third party's intellectual property rights, in this model.
*
* 4. We will not be held responsible for any damage (for example, bugs,
*    data accuracy, computer viruses, etc.) resulting from or related to
*    the use or utilization of this model.
*
*   Customers using or utilizing this model are deemed to have accepted
*   the above conditions of use.
*--------------------------------------------------------------------------------
.SUBCKT ETQP3M150KVN 1 2
L1 1 3 15.0217E-6
C1 1 3 11.52E-12
R1 1 3 23927.6
R2 3 2 0.1015
.ENDS ETQP3M150KVN

